US08138187B2
3-(2-(1H-Imidazol-1-yl)ethyl)-5-fluoro-1H-indole (Ind-39)
A solution of 3-(2-bromo-ethyl)-5-fluoro-1H-indole (4.84 g, 20 mmol), imidazole (1.36 g, 20 mmol) and ethyl-diisopropylamine (3.4 ml, 20 mmol) in abs. dioxane (50 ml) was stirred at 90° C. for 8 h until according to TLC educt was no longer present. The solvent was then removed i. vac., CHCl3 (100 ml) was added to the residue and the organic phase was washed twice with water. The organic phase was dried over Na2SO4 and concentrated i. vac. and the residue which remained was purified by flash chromatography with CHCl3/MeOH (9:1).

reactant | 3-(2-bromo-ethyl)-5-fluoro-1H-indole | 20 mmol, 4.84 g | BrCCC1=CNC2=CC=C(C=C12)F | C10H9BrFN
reactant | imidazole | 20 mmol, 1.36 g | N1C=NC=C1 | C3H4N2
reactant | ethyl-diisopropylamine | 20 mmol, 3.4 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 3-(2-(1H-Imidazol-1-yl)ethyl)-5-fluoro-1H-indole | N1(C=NC=C1)CCC1=CNC2=CC=C(C=C12)F | C13H12FN3
